US04511392
A diazionium salt was prepared by adding a solution of 14.5 g of sodium nitrite in 30 ml of water to a suspension of 32 g of 5-(2-aminophenyl)isoxazole, prepared in Example 3, and 72 ml of concentrated hydrochloric acid in 210 ml of glacial acetic acid cooled at 0° to 5° C. After stirring about 0.4 hour, the diazonium salt suspension was poured in one portion into a mixture consisting of 150 ml of acetic acid, 8.4 g of cupric chloride dihydrate and 60 ml of sulfur dioxide and cooled at 10° C. by an ice-water bath. The mixture was stirred at 10° to 15° C. for 0.2 hour then at about 20° to 30° C. for 3 hours. The suspension was poured into ice-water (about 700 ml) and stirred to form a solid. The mixture was filtered and the solid was washed 3×100 ml of water and suction dried to give 37 g of crude 2-(isoxazol-5-yl)benzenesulfonyl chloride; m.p. 63°-65° C.

reactant | sodium nitrite | 14.5 g | N(=O)[O-].[Na+]
reactant | 5-(2-aminophenyl)isoxazole | 32 g | NC1=C(C=CC=C1)C1=CC=NO1 | C9H8N2O
reactant | hydrochloric acid | 72 ml | Cl | ClH
reactant | sulfur dioxide | 60 ml | S(=O)=O | O2S
solvent | water | 30 ml | O | H2O
solvent | acetic acid | 210 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 2-(isoxazol-5-yl)benzenesulfonyl chloride | 37 g | O1N=CC=C1C1=C(C=CC=C1)S(=O)(=O)Cl | C9H6ClNO3S
